US05262541
Example 9 of U.S. Pat. No. 4,835,284 is duplicated. A mixture of methanol (60 ml), water (30 ml), 97% sodium hydroxide (12.4 g), and 2-nitro-2'-hydroxy-5'-methyl azobenzene (12.9 g) is heated and stirred at 45°-50° C. 9-Fluorenone (1.0 g) and then glucose (5.5 g) are added to the resultant mixture over 30 minutes while stirring. The mixture is further stirred at 75° C. (boiling point) for 7 hours. As a result, the azobenzene disappears to produce 2-(2'-hydroxy-5'-methylphenyl)benzotriazole-N-oxide. Glucose (6 g) is then added to the reaction liquor over 30 minutes and the reaction is conducted 75° C. (boiling point) for further 6 hours. As a result, the above prepared N-oxide disappears. Thereafter, water (50 ml) is added to the reaction liquor, and the resultant reaction liquor is neutralized with 62% sulfuric acid (15 g) to precipitate a crystal. The precipitated crystal is separated by filtration, and the separated crystal is fully washed with water and further with methanol. The washed crystal is then dried, thus obtaining 9.6 g of 2-(2'-hydroxy-5'-methylphenyl)benzotriazole having a melting point of 128° to 130° C. at the yield of 85.0%. One can see that the reaction using the aromatic ketone 9-fluorenone takes over 14 hours to complete.

reactant | sodium hydroxide | 12.4 g | [OH-].[Na+]
reactant | 2-nitro-2'-hydroxy-5'-methyl azobenzene | 12.9 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
reactant | 9-Fluorenone | 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | glucose | 5.5 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
solvent | water | 30 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | 2-(2'-hydroxy-5'-methylphenyl)benzotriazole-N-oxide | OC1=C(C=C(C=C1)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C13H11N3O2
